US08809552B2
d) N-(2,4-Dichlorobenzyl)-1-(4-fluorophenylsulfonyl)-1,6-diazaspiro[3.3]heptane-6-carboxamide
To a solution of tert-butyl 1-(4-fluorophenylsulfonyl)-1,6-diazaspiro[3.3]heptane-6-carboxylate (452 mg, 1.27 mmol) in dichloromethane (8 mL) was added trifluoroacetic acid (489 μl, 6.34 mmol). After 2 h at ambient temperature, another amount of trifluoroacetic acid was added (300 μl, 3.89 mmol). The reaction mixture was stirred for 1.5 h at ambient temperature and concentrated under reduced pressure. The residue was partitioned in toluene (10 mL) and then concentrated, this procedure was repeated twice to give the unpurified amine (540 mg), which was used directly in the next step without further purification. To a solution of the obtained 1-(4-fluorophenylsulfonyl)-1,6-diazaspiro[3.3]heptanes in acetonitrile (10 mL) was added 2,4-dichloro-1-(isocyanatomethyl)benzene (216 μl, 1.47 mmol) followed by triethylamine (294 μl, 2.11 mmol) and the mixture was stirred for 1 h at ambient temperature. The solvent was evaporated in vacuo and the resulting solid was purified by chromatography (SiO2; heptane:ethyl acetate 1:4 to dichloromethane/methanol/ammonia 95:4.5:0.5) to give the titled compound (530 mg, 91%) as colorless solid. HRMS (EI): 457.0431 (exact mass calculated for C19H17Cl2FN3O3S ([M]+)=457.0430).

reactant | tert-butyl 1-(4-fluorophenylsulfonyl)-1,6-diazaspiro[3.3]heptane-6-carboxylate | 1.27 mmol, 452 mg | FC1=CC=C(C=C1)S(=O)(=O)N1CCC12CN(C2)C(=O)OC(C)(C)C | C16H21FN2O4S
reactant | trifluoroacetic acid | 6.34 mmol, 489 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2,4-dichloro-1-(isocyanatomethyl)benzene | 1.47 mmol, 216 μl | ClC1=C(C=CC(=C1)Cl)CN=C=O | C8H5Cl2NO
reactant | triethylamine | 2.11 mmol, 294 μl | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-(2,4-Dichlorobenzyl)-1-(4-fluorophenylsulfonyl)-1,6-diazaspiro[3.3]heptane-6-carboxamide | 530 mg, 91% | ClC1=C(CNC(=O)N2CC3(CCN3S(=O)(=O)C3=CC=C(C=C3)F)C2)C=CC(=C1)Cl | C19H18Cl2FN3O3S
